US08536187B2
To a solution of 4-bromo-2-methansulfonyl-benzaldehyde (1.0 g, 3.88 mmol) in EtOH (11 mL)/THF (2.5 mL) was added NaBH4 (1.29 g, 34.2 mmol) in three portions. The reaction was carefully quenched with water and the product was extracted with EtOAc, dried (Na2SO4), and purified by silica gel chromatography to give 735 mg of (4-bromo-2-methansulfonyl-phenyl)-methanol.

reactant | 4-bromo-2-methansulfonyl-benzaldehyde | 3.88 mmol, 1.0 g | BrC1=CC(=C(C=O)C=C1)S(=O)(=O)C | C8H7BrO3S
reactant | THF | 2.5 mL | C1CCOC1 | C4H8O
reactant | NaBH4 | 34.2 mmol, 1.29 g | [BH4-].[Na+]
solvent | EtOH | 11 mL | CCO | C2H6O
product | (4-bromo-2-methansulfonyl-phenyl)-methanol | 735 mg | BrC1=CC(=C(C=C1)CO)S(=O)(=O)C | C8H9BrO3S
